US06326369B1
5,6-Dimethoxy-2-[4-[4-(morpholinocarbonyl)phenoxy]butyl]indan-4,7-dione
To a mixture of 4,5,6,7-tetramethoxy-2-[4-[4-(morpholinocarbonyl)phenoxy]butyl]indan (1.50 g), pyridine-2,6-dicarboxylic acid (1.60 g), THF (30 ml), and water (15 ml) was added an water (15 ml) solution of CAN (7.02 g) with cooling with ice. After being stirred for 15 min, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was recrystallized from ethyl acetate to obtain the entitled compound (965 mg).

reactant | 4,5,6,7-tetramethoxy-2-[4-[4-(morpholinocarbonyl)phenoxy]butyl]indan | 1.50 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCOC1=CC=C(C=C1)C(=O)N1CCOCC1 | C28H37NO7
reactant | pyridine-2,6-dicarboxylic acid | 1.60 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | CAN | 7.02 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | water | O | H2O
solvent | water | 15 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 5,6-Dimethoxy-2-[4-[4-(morpholinocarbonyl)phenoxy]butyl]indan-4,7-dione | 965 mg | COC=1C(C=2CC(CC2C(C1OC)=O)CCCCOC1=CC=C(C=C1)C(=O)N1CCOCC1)=O | C26H31NO7
